US04216148
A mixture of 14.4 g. of isatoic anhydride, 22 ml. of dimethylsulfoxide and some ground glass is stirred and put in an oil bath at 120° C. A mixture of 12.6 g. of 3-amino-4-ethoxythiophene in 17 ml. of dimethylsulfoxide is added dropwise over 30 minutes at 120°-129° C. The mixture is heated at 125°-129° C. for one hour, cooled, poured into ice and water and extracted with dichloromethane. The extract is dried over magnesium sulfate, filtered and evaporated to an oil. This oil is dissolved in methanol, filtered, cooled and a few drops of water are added. The solid is removed by filtration and the filtrate is evaporated to an oil. This oil is dissolved in methanol, a few drops of water are added and the mixture is chilled overnight. The solid is collected by filtration giving o-amino-N-(4-ethoxy-3-thienyl)-benzamide.

reactant | isatoic anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | 3-amino-4-ethoxythiophene | NC1=CSC=C1OCC | C6H9NOS
solvent | water | O | H2O
product | o-amino-N-(4-ethoxy-3-thienyl)-benzamide | NC1=C(C(=O)NC2=CSC=C2OCC)C=CC=C1 | C13H14N2O2S
